US06528528B2
Step B: 3-Nitro-4-ethyl-N-phenyl-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (2.0 mL, 22.93 mmol), 3-nitro-4-ethylbenzoic acid (4.00 g, 20.51 mmol), DMF (1.0 mL, 12.92 mmol), and aniline (3.8 mL, 41.70 mmol) to afford the 5 product (4.1 g); m.p. 111-113° C. after trituration in hexane.

reactant | oxalyl chloride | 22.93 mmol, 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitro-4-ethylbenzoic acid | 20.51 mmol, 4.00 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1CC | C9H9NO4
reactant | DMF | 12.92 mmol, 1.0 mL | CN(C)C=O | C3H7NO
reactant | aniline | 41.70 mmol, 3.8 mL | NC1=CC=CC=C1 | C6H7N
product | 3-Nitro-4-ethyl-N-phenyl-benzamide | 4.1 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1CC | C15H14N2O3
